US07544704B2
2-(5-Methyl-3-phenyl-isoxazol-4-ylethynyl)-N-(tetrahydro-pyran-4-yl)-isonicotinamide
As described for example 7b, 2-(5-methyl-3-phenyl-isoxazol-4-ylethynyl)-isonicotinic acid (50 mg; 0.16 mmol) instead of 3-(5-methyl-3-phenyl-isoxazol-4-ylethynyl)-benzoic acid was converted (using 4-amino-tetrahydropyrane instead of aminomethylcyclopropane) to the title compound (SiO2, heptane:ethyl acetate=95:5 to 0:100, 46 mg, 73%) which was obtained as a yellow solid. MS: m/e=388.2 [M+H]+.

reactant | 2-(5-methyl-3-phenyl-isoxazol-4-ylethynyl)-isonicotinic acid | 0.16 mmol, 50 mg | CC1=C(C(=NO1)C1=CC=CC=C1)C#CC=1C=C(C(=O)O)C=CN1 | C18H12N2O3
reactant | 4-amino-tetrahydropyrane | NC1CCOCC1 | C5H11NO
product | 2-(5-Methyl-3-phenyl-isoxazol-4-ylethynyl)-N-(tetrahydro-pyran-4-yl)-isonicotinamide | 46 mg, 73% | CC1=C(C(=NO1)C1=CC=CC=C1)C#CC=1C=C(C(=O)NC2CCOCC2)C=CN1 | C23H21N3O3
